US04705864
38.8 mL diphosgene is added dropwise over 1 hour to a mixture of 35 g glycine methyl ester hydrochloride and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is warmed to 80° C. during this time. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the filtrate is fractionally distilled to give pure glycine methyl ester isocyanate in about 70% yield (b.p. 60° C., 13 mm Hg).

reactant | diphosgene | 38.8 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | glycine methyl ester hydrochloride | 35 g | Cl.COC(CN)=O
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | glycine methyl ester isocyanate | about 70% yield | [N-]=C=O.COC(CN)=O | InChI=1S/C3H7NO2.CNO/c1-6-3(5)2-4;2-1-3/h2,4H2,1H3;/q;-1
